US07790770B2
To a solution of 4-fluoro-3-hydroxy-N-methoxy-N-methylbenzamide (1.90 g, 9.55 mmol) in DMF (8 mL) was added imidazole (740 mg, 10.8 mmol) and TBDMSCl (1.62 g, 10.8 mmol) at room temperature. The reaction mixture was stirred for 48 h and quenched with saturated NaHCO3. The solution was extracted with ether (3×) and the combined ether portions washed with LiCl (10%), dried over Na2SO4, filtered and concentrated. The resulted colorless oil was purified by ISCO chromatography (120 g column) using hexanes/EtOAc (0-100% over 30 min) to give 3-(tert-butyldimethylsilyloxy)-4-fluoro-N-methoxy-N-methylbenzamide (RT=10-12 minutes) as a colorless oil (2.00 g, 67% yield). LCMS: RT=2.06 min [M+H] 314.22 (Phenomenex Luna C18 column, 4.6×30 mm eluting with 10-90% MeOH/H2O over 2 minutes containing 0.1% TFA; 5 mL/min, monitoring at 220 nm); NMR: 400 MHz (CDCl3) 7.26 ppm, 2H, m; 7.02 ppm, 1H, m; 3.50 ppm, 3H, s; 3.31 ppm, 3H, s; 0.97 ppm, 9H, s, 0.16 ppm, 6H, s.

reactant | 4-fluoro-3-hydroxy-N-methoxy-N-methylbenzamide | 9.55 mmol, 1.90 g | FC1=C(C=C(C(=O)N(C)OC)C=C1)O | C9H10FNO3
reactant | imidazole | 10.8 mmol, 740 mg | N1C=NC=C1 | C3H4N2
reactant | TBDMSCl | 10.8 mmol, 1.62 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 3-(tert-butyldimethylsilyloxy)-4-fluoro-N-methoxy-N-methylbenzamide | 2.00 g, 67% yield | [Si](C)(C)(C(C)(C)C)OC=1C=C(C(=O)N(C)OC)C=CC1F | C15H24FNO3Si
